US05260423
Preparation of 2-benzylthio-3,5-dinitrobenzotrifluoride (intermediate)
67.6 g of 2-chloro-3,5-dinitrobenzotrifluoride are dissolved in 150 ml of N,N-dimethylformamide (DMF) and the mixture is treated with 35.9 g of solid potassium carbonate, treated dropwise with 31 g of benzylmercaptan in 200 ml of DMF with stirring at 0° C., and subsequently stirred for a further 16 hours at room temperature, while cooling.

reactant | 2-chloro-3,5-dinitrobenzotrifluoride | 67.6 g | ClC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C7H2ClF3N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzylmercaptan | 31 g | C(C1=CC=CC=C1)S | C7H8S
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | DMF | 200 ml | CN(C=O)C | C3H7NO
product | 2-benzylthio-3,5-dinitrobenzotrifluoride | C(C1=CC=CC=C1)SC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C(F)(F)F | C14H9F3N2O4S
